US06803463B2
2-(4-Ethoxyphenyl)-3-(4-methanesulfonyl-phenyl)-3,3a-dihydro-pyrazolo[1,5-b]pyridazine
Titanium tetrachloride (3.45 mL) was added to a stirred mixture of 1-(4-ethoxyphenyl)-2-(4-methanesulfonyl-phenyl)-ethanone (10.0 g), N-amino-pyridazinium hexafluorophosphate (7.95 g) in dichloromethane (150 mL) at about 20° C. N-Methyl-pyrrolidinone (3.0 mL) was added at about 20° C. TMEDA (6.7 mL) was then added over a period of about 4 hours at about 20° C. After stirring the mixture for about 1 hour, a second portion of TMEDA (12.3 mL) was added over about 20 minutes, and the reaction mixture was stirred at about 20° C. for about 16 hours.

reactant | 1-(4-ethoxyphenyl)-2-(4-methanesulfonyl-phenyl)-ethanone | 10.0 g | C(C)OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C17H18O4S
reactant | N-amino-pyridazinium hexafluorophosphate | 7.95 g | F[P-](F)(F)(F)(F)F.N[N+]1=NC=CC=C1
reactant | N-Methyl-pyrrolidinone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
reactant | TMEDA | 6.7 mL | CN(C)CCN(C)C | C6H16N2
reactant | TMEDA | 12.3 mL | CN(C)CCN(C)C | C6H16N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 3.45 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 2-(4-Ethoxyphenyl)-3-(4-methanesulfonyl-phenyl)-3,3a-dihydro-pyrazolo[1,5-b]pyridazine | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2C1C1=CC=C(C=C1)S(=O)(=O)C | C21H21N3O3S
